US05109004
1-(2-Chloro-6-nitro-4-trifluoromethylphenyl)-3-tertiary-butyl-5-diethylamino-1,2,4-triazole (0.6g) was dissolved in methanol (20ml) and the solution warmed to 50° C. A solution of stannous chloride dihydrate (2.3g) in concentrated hydrochloric acid (20ml) was added with vigorous stirring. The reaction mixture was allowed to cool, then stirred at room temperature for 30 minutes and poured into water. The solution was basified to pH 8 with 2N sodium hydroxide solution, and then extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulphate and the solvent evaporated under reduced pressure to afford a pale yellow oil which crystallised on standing. Recrystallisation from hexane gave 1-(2-amino-6-chloro-4-trifluoromethylphenyl)-3-tertiary-butyl-5-diethylamino-1,2,4-triazole (260mg).

reactant | 1-(2-Chloro-6-nitro-4-trifluoromethylphenyl)-3-tertiary-butyl-5-diethylamino-1,2,4-triazole | 0.6g | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])N1N=C(N=C1N(CC)CC)C(C)(C)C | C17H21ClF3N5O2
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 20ml | CO | CH4O
solvent | hydrochloric acid | 20ml | Cl | ClH
product | 1-(2-amino-6-chloro-4-trifluoromethylphenyl)-3-tertiary-butyl-5-diethylamino-1,2,4-triazole | 260mg | NC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1N(CC)CC)C(C)(C)C | C17H23ClF3N5
